US04091101
Step B: Preparation of 6-(1-Piperazinyl)quinoxaline acetate
1-(3-Amino-4-nitrophenyl)piperazine hydrofluoride (2.2 g., 0.0091 mol) is hydrogenated in 100 ml. of a 1:1 ethanol-water mixture in the presence of 1.1 g. of 10% Pd on carbon at an initial pressure of 35-40 psiq of hydrogen at ambient temperature. After three equivalents of hydrogen have been absorbed, the mixture is vented to nitrogen and filtered through diatomaceous earth into a flask containing 2 ml. of 40% (by weight) aqueous glyoxal. The total filtrate is concentrated under vacuum, the aqueous solution is basified with sodium hydroxide, and then extracted with chloroform. The chloroform extract is washed with water, dried over sodium sulfate and concentrated under vacuum to an oil which is treated with 50 ml. of ethanol and 2 ml. of 10N anhydrous ethanolic-hydrogen chloride. The precipitated hydrochloride is partitioned between aqueous sodium carbonate and methylenechloride and the methylene chloride extract is washed with water, dried over sodium sulfate and concentrated to an oil which is treated with 0.5 ml. of acetic acid in 40 ml. of isopropanol and 40 ml. of ether. The crystallized 6-(1-piperazinyl)quinoxaline acetate, m.p. 147°-148.5° C. is collected by filtration.

reactant | 1-(3-Amino-4-nitrophenyl)piperazine hydrofluoride | 0.0091 mol, 2.2 g | F.NC=1C=C(C=CC1[N+](=O)[O-])N1CCNCC1
reactant | hydrogen | [H][H] | H2
reactant | hydrogen | three equivalents | [H][H] | H2
reactant | ethanol water | C(C)O.O
catalyst | Pd on carbon | [Pd] | Pd
product | 6-(1-Piperazinyl)quinoxaline acetate | C(C)(=O)O.N1(CCNCC1)C=1C=C2N=CC=NC2=CC1 | InChI=1S/C12H14N4.C2H4O2/c1-2-11-12(15-4-3-14-11)9-10(1)16-7-5-13-6-8-16;1-2(3)4/h1-4,9,13H,5-8H2;1H3,(H,3,4)
